US06211241B1
(6-Hydroxyhexyl)-carbamic acid benzyl ester:
To a solution of diisobutylaluminum hydride (49 mL, 1.5 M in toluene) in THF (150 mL) cooled to −78° C. was added a solution of 6-benzyloxycarbonylamino-hexanoic acid methyl ester (10 g, 37 mmol) in THF (100 mL) . The reaction mixture was stirred for 4 h and methanol (2.5 mL) was added carefully at −78 to −75° C. After 2 h, the mixture was poured to 250 mL of 1 N HCl solution cooled in ice-bath, extracted with ethyl acetate (300 mL), washed with brine (3×100 mL), dried over anhydrous magnesium sulfate, and concentrated in vacuo. The residue was purified by flash column chromatography (silica, 50% ethyl acetate in hexane) to yield the titled compound (7.1 g, 80%); white solid, mp 67-68° C.

reactant | diisobutylaluminum hydride | 1.5 M, 49 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 6-benzyloxycarbonylamino-hexanoic acid methyl ester | 37 mmol, 10 g | COC(CCCCCNC(=O)OCC1=CC=CC=C1)=O | C15H21NO4
reactant | methanol | 2.5 mL | CO | CH4O
reactant | HCl | 1 N, 250 mL | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (6-Hydroxyhexyl)-carbamic acid benzyl ester | 7.1 g, 80% | C(C1=CC=CC=C1)OC(NCCCCCCO)=O | C14H21NO3
